US07282588B2
4-Bromo-2-(3-formylphenyl)-1-phenylsulfonyl-1H-pyrrolo[2,3-b]pyridine
In a sealed pressure tube was added 4-bromo-2-iodo-1-phenylsulfonyl-1H-pyrrolo[2,3-b]pyridine (2.1 mmol; preparation disclosed in WO03/000690A1), 3-formylbenzeneboronic acid (2.1 mmol), N,N-dimethylformamide (15 mL), aqueous saturated sodium bicarbonate (5 mL) and tetrakis(triphenylphosphine)palladium(0) (0.1 mmol). The reaction was purged with nitrogen, capped and stirred at 100° C. for 16 h. After cooling to room temperature the reaction was concentrated under vacuum, taken up in ethyl acetate, washed with water, brine, dried over sodium sulfate, filtered and evaporated to dryness under vacuum. Purification by flash chromatography by silica gel (0-4% ethyl acetate in methylene chloride) gave the title compound as a white solid (77%). ESMS [M+H]+: 441.2

reactant | 4-bromo-2-iodo-1-phenylsulfonyl-1H-pyrrolo[2,3-b]pyridine | 2.1 mmol | BrC1=C2C(=NC=C1)N(C(=C2)I)S(=O)(=O)C2=CC=CC=C2 | C13H8BrIN2O2S
reactant | 3-formylbenzeneboronic acid | 2.1 mmol | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | sodium bicarbonate | 5 mL | C([O-])(O)=O.[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.1 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 4-Bromo-2-(3-formylphenyl)-1-phenylsulfonyl-1H-pyrrolo[2,3-b]pyridine | 77% | BrC1=C2C(=NC=C1)N(C(=C2)C2=CC(=CC=C2)C=O)S(=O)(=O)C2=CC=CC=C2 | C20H13BrN2O3S
